US08476434B2
To a solution of N-(3-isopropylphenyl)-4-nitro-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzamide (0.090 g, 0.20 mmol) in MeOH (3 mL) and EtOAc (3 mL) was added NH4OAc (0.030 g) and Pd/C (10%) (0.020 g). The reaction was capped with a septum, and positive H2 pressure was applied with a balloon/needle. The reaction was stirred for several hours, at which point LCMS indicated formation of product. The mixture was filtered through sand/celite, concentrated onto silica gel, and chromatographed with 8:8:8:1 t-BuOMe:hexanes:CH2Cl2:MeOH to afford 4-amino-N-(3-isopropylphenyl)-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzamide as a yellow solid. MS m/z=426 [M+H]+. Calc'd for C25H23N5O2: 425.49.

reactant | N-(3-isopropylphenyl)-4-nitro-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzamide | 0.20 mmol, 0.090 g | C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)[N+](=O)[O-])OC1=NC=CC=C1C1=NC=NC=C1)=O | C25H21N5O4
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.020 g | [Pd] | Pd
product | 4-amino-N-(3-isopropylphenyl)-3-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzamide | NC1=C(C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=C1)OC1=NC=CC=C1C1=NC=NC=C1 | C25H23N5O2
